US07709483B2
(f) 7-Fluoro-8-methyl-2(1H)-quinoxalinone
A mixture of 6-fluoro-5-methyl-3-oxo-3,4-dihydro-2-quinoxalinecarbonitrile 1-oxide (15.9 g, 71.8 mmol) and sodium dithionite (36.7 g, 179.6 mmol) in ethanol (200 ml) and water (400 ml) was heated under reflux for 1 h, with a flow of argon over the top of the condenser leading to a bleach-filled bottle to trap HCN. The cooled mixture was carefully acidified to pH1 with dilute HCl and the mixture was stirred for 45 min at RT. Sodium hydroxide (50% aqueous) was then added to give pH˜11 and the mixture was evaporated to remove approx. 500 ml. The residue was acidified to pH 6 with dilute HCl (caution: cyanide still present!) and the precipitate was filtered off, washed with water and dried to give a solid (10.37 g, 81%). Extraction of the aqueous liquor with 10% methanol/dichloromethane and evaporation of the extracts gave a further small amount of product (0.8 g). Total yield 11.2 g, 88%.

reactant | 6-fluoro-5-methyl-3-oxo-3,4-dihydro-2-quinoxalinecarbonitrile 1-oxide | 71.8 mmol, 15.9 g | FC=1C(=C2NC(C(=[N+](C2=CC1)[O-])C#N)=O)C | C10H6FN3O2
reactant | sodium dithionite | 179.6 mmol, 36.7 g | S(=O)([O-])S(=O)[O-].[Na+].[Na+]
reactant | HCN | C#N | CHN
reactant | HCl | Cl | ClH
reactant | Sodium hydroxide | [OH-].[Na+]
solvent | ethanol | 200 ml | C(C)O | C2H6O
solvent | water | 400 ml | O | H2O
product | 7-Fluoro-8-methyl-2(1H)-quinoxalinone | 10.37 g, 81% | FC1=CC=C2N=CC(NC2=C1C)=O | C9H7FN2O
